US07452886B2
A. 4-(2,4-Dimethoxy-phenyl)-pyridine
The Grignard reagent, prepared from magnesium (5 g) and 1-Bromo-2,4-dimethoxybenzene (38 g) in THF (300 ml), is added at room temperature to 4-Bromo-pyridine hydrochloride salt in THF (10 ml). The mixture is heated under reflux for 2 hours and then evaporated to dryness. The residue is taken up in ethyl acetate and extracted with 1N hydrochloric acid. The aqueous phase is neutralised with 4M sodium hydroxide solution and extracted with ethyl acetate. The organic phase is dried with magnesium sulfate, evaporated and the residue is purified by column chromatography on silica gel using n-hexane:AcOEt=1:1 (v/v). MS-APCI+ (M+H)+=216

reactant | magnesium | 5 g | [Mg] | Mg
reactant | 1-Bromo-2,4-dimethoxybenzene | 38 g | BrC1=C(C=C(C=C1)OC)OC | C8H9BrO2
reactant | 4-Bromo-pyridine hydrochloride salt | Cl.BrC1=CC=NC=C1
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-(2,4-Dimethoxy-phenyl)-pyridine | COC1=C(C=CC(=C1)OC)C1=CC=NC=C1 | C13H13NO2
